* ADA4922 SPICE Macro-model        
* Description: Amplifier
* Generic Desc: Hi Volt Driver for +10V ADCs to 18 bit
* Developed by:
* Revision History: 08/10/2012 - Updated to new header style
*					09/13/2021 - Removed the unnecessary FB pin from the node assignments.
* 
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
* 
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
* END Notes
*
* Node assignments
**              REF		Vcc		OUT+	OUT-	Vee		IN	
**				|		|		|		|		|		|
.subckt ADA4922	2b		99		4		4a		50		1  		
							
***Differential Stage							
Q1	13	12	14	npn			
Q2	17	4	16	npn			
Rc1	98	13	Rideal	3.200E+00			
Rc2	98	17	Rideal	3.200E+00			
Re1	14	15	Rideal	3.148E+00			
Re2	15	16	Rideal	3.148E+00			
Ibias	15	51	1.00E+00				
Dcmlim1	18	15	DQUIET				
Vcmlim1	18	51	-0.074				
							
***Voltage Noise Generation							
HVnoise	12	7	Vvnoise	1			
VVnoise	501	0	0				
DVnoise	501	0	Dvnoise				
RVnoise	501	0	0.003755102				
							
***Current Noise Generation on +IN							
FInoise1	12	0	VInoise1	1			
VInoise1	502	0	0				
DInoise1	502	0	DInoise1				
RInoise1	502	0	8448.979592				
							
***Current Noise Generation on -IN							
FInoise2	4	0	VInoise2	1			
VInoise2	503	0	0				
DInoise2	503	0	DInoise2				
RInoise2	503	0	8448.979592				

***Common Mode Injection						
Rcm1	1	601	Rideal	100Meg		
Rcm2	4	601	Rideal	100Meg		
Gcmr	0	602	601	75	1.00E-06	
Rcmr1	602	603	Rideal	1Meg		
Rcmr2	603	604	Rideal	1.778E+00		
Lcmr	604	0	9.434E-05			
Ecmr	10	9	603	0	1.000E+00	

***Positive Power Supply Rejection						
Epsr1	700	0	98	0	1	
Rpsr1	700	701	Rideal	1.00E+02		
Rpsr2	701	702	Rideal	3.162E-04		
Lpsr1	702	0	1.007E-07			
Epsr2	11	10	701	0	1	

***Negative Power Supply Rejection					
Epsr3	703	0	51	0	1
Rpsr3	703	704	Rideal	1.00E+02	
Rpsr4	704	705	Rideal	1.000E-04	
Lpsr2	705	0	3.183E-09		
Epsr4	12	11	704	0	1

***Input Offset and Bias					
Vos	1	7	4.000E-05		
Ios	1	4	5.000E-08		

***Input Impedance					
Cinv	4	0	2.00E-12		
Cninv	1	0	2.00E-12		

***1st Gain and Slew limiting					
Gslew	0	101	17	13	1.0000E+00	
Rslew	101	0	Rideal	2.50E+02		
Dslew1	101	102	DZENER			
Dslew2	0	102	DZENER			

***Second Gain and Dominant Pole with Output Voltage Limiting						
Gp1	51	201	101	0	1.885E-06	
Rp1	201	51	Rideal	2.122E+09		
Cp1	201	51	1.0E-12			
Vlim1	97	206	1		
Dlim1	201	206	dquiet			
Vlim2	207	52	1
Dlim2	207	201	dquiet			
Esupref1	97	98	51	0	1	
Esupref2	52	51	51	0	1	
						
***Second Pole						
Gp2	0	202	201	51	1.00E-03	
Rp2	202	0	Rideal	1.00E+03		
Cp2	202	0	2.27364E-12			
						
***Third Pole						
Gp3	0	203	202	0	1.00E-03	
Rp3	203	0	Rideal	1.00E+03		
Cp3	203	0	1.59155E-16			
***Fourth Pole						
Gp4	0	204	203	0	1.00E-03	
Rp4	204	0	Rideal	1.00E+03		
Cp4	204	0	1.59155E-16			
***Fifth Pole						
Gp5	0	205	204	0	1.00E-03	
Rp5	205	0	Rideal	1.00E+03		
Cp5	205	0	1.592E-16			
						
***First Zero						
Gz1	0	301	205	0	1.00E-03	
Rz1	301	302	Rideal	1.00E+03		
Lz1	302	0	1.592E-10			
***Second Zero						
Gz2	0	303	301	0	1.00E-03	
Rz2	303	304	Rideal	1.00E+03		
Lz2	304	0	1.592E-10			
***Third Zero						
Gz3	0	305	303	0	1.00E-03	
Rz3	305	306	Rideal	1.00E+03		
Lz3	306	0	1.59E-10			
						
***Buffer						
Gbuf	0	401	305	0	1.00E-02				
Rbuf	401	0	Rideal	1.00E+02					
									
***Output with current limiting									
Eout	404	0	401	0	1.000E+00				
Rout	404	405	RIDEAL	1.000E+00					
Lout	405	406	2.00E-08						
Cout	406	0	1.00E-12						
Voutmon	406	4	0						
Dout1	401	407	Dquiet						
Vout1	407	406	-8.00E-01						
Dout2	408	401	Dquiet						
Vout2	406	408	-8.00E-01						

***Voltage reference generator									
Eref1	98	0	99	0	1				
Eref2	51	0	50	0	1		
Rref1	98	901	Rideal	100Meg			
Rref2	901	51	Rideal	100Meg			
Eref3	75	0	901	0	1		

***Supply current correction							
Iq	99	50	0.0035				
Fsup1	99	0	Voutmon	1			
*DZsup1	0	802	DZENER2				
*Dsup1	99	802	DQUIET				
Fsup2	0	50	Voutmon	-1			
*DZsup2	804	0	DZENER2				
*Dsup2	804	50	DQUIET				

*************************************************************************
***Differential Stage							
Q1a		13a	12a	14a	npn			
Q2a		17a	2a	16a	npn			
Rc1a		98a	13a	Rideal	3.200E+00			
Rc2a		98a	17a	Rideal	3.200E+00			
Re1a		14a	15a	Rideal	3.148E+00			
Re2a		15a	16a	Rideal	3.148E+00			
Ibiasa		15a	51a	1.00E+00				
Dcmlim1a	18a	15a	DQUIET				
Vcmlim1a	18a	51a	-0.074				
							
***Voltage Noise Generation							
HVnoisea	12a	7a	Vvnoisea	1			
VVnoisea	501a	0	0				
DVnoisea	501a	0	Dvnoisea				
RVnoisea	501a	0	0.003755102				
							
***Current Noise Generation on +IN							
FInoise1a	12a	0	VInoise1a	1			
VInoise1a	502a	0	0				
DInoise1a	502a	0	DInoise1a				
RInoise1a	502a	0	8448.979592				
							
***Current Noise Generation on -IN							
FInoise2a	2a	0	VInoise2a	1			
VInoise2a	503a	0	0				
DInoise2a	503a	0	DInoise2a				
RInoise2a	503a	0	8448.979592				

***Common Mode Injection						
Rcm1a		1a	601a	Rideal	100Meg		
Rcm2a		2a	601a	Rideal	100Meg		
Gcmra		0	602a	601a	75a	1.00E-06	
Rcmr1a		602a	603a	Rideal	1Meg		
Rcmr2a		603a	604a	Rideal	1.778E+00		
Lcmra		604a	0	9.434E-05			
Ecmra		10a	9a	603a	0	1.000E+00	

***Positive Power Supply Rejection						
Epsr1a		700a	0	98a	0	1	
Rpsr1a		700a	701a	Rideal	1.00E+02		
Rpsr2a		701a	702a	Rideal	3.162E-04		
Lpsr1a		702a	0	1.007E-07			
Epsr2a		11a	10a	701a	0	1	

***Negative Power Supply Rejection					
Epsr3a		703a	0	51a	0	1
Rpsr3a		703a	704a	Rideal	1.00E+02	
Rpsr4a		704a	705a	Rideal	1.000E-04	
Lpsr2a		705a	0	3.183E-09		
Epsr4a		12a	11a	704a	0	1

***Input Offset and Bias					
Vosa		1a	7a	4.000E-05		
Iosa		1a	2a	5.000E-08		
	
***Input Impedance					
Cinva		2a	0	2.00E-12		
Cninva		1a	0	2.00E-12		
	
***1st Gain and Slew limiting					
Gslewa		0	101a	17a	13a	1.0000E+00	
Rslewa		101a	0	Rideal	2.50E+02		
Dslew1a		101a	102a	DZENER			
Dslew2a		0	102a	DZENER			
	
***Second Gain and Dominant Pole with Output Voltage Limiting						
Gp1a		51a	201a	101a	0	1.885E-06	
Rp1a		201a	51a	Rideal	2.122E+09		
Cp1a		201a	51a	1.0E-12			
Vlim1a		97a	206a	1		
Dlim1a		201a	206a	dquiet			
Vlim2a		207a	52a	1
Dlim2a		207a	201a	dquiet			
Esupref1a	97a	98a	51a	0	1	
Esupref2a	52a	51a	51a	0	1	
							
***Second Pole						
Gp2a		0	202a	201a	51a	1.00E-03	
Rp2a		202a	0	Rideal	1.00E+03		
Cp2a		202a	0	2.27364E-12			
							
***Third Pole						
Gp3a		0	203a	202a	0	1.00E-03	
Rp3a		203a	0	Rideal	1.00E+03		
Cp3a		203a	0	1.59155E-16			
***Fourth Pole						
Gp4a		0	204a	203a	0	1.00E-03	
Rp4a		204a	0	Rideal	1.00E+03		
Cp4a		204a	0	1.59155E-16			
***Fifth Pole						
Gp5a		0	205a	204a	0	1.00E-03	
Rp5a		205a	0	Rideal	1.00E+03		
Cp5a		205a	0	1.592E-16			
							
***First Zero						
Gz1a		0	301a	205a	0	1.00E-03	
Rz1a		301a	302a	Rideal	1.00E+03		
Lz1a		302a	0	1.592E-10			
***Second Zero						
Gz2a		0	303a	301a	0	1.00E-03	
Rz2a		303a	304a	Rideal	1.00E+03		
Lz2a		304a	0	1.592E-10			
***Third Zero						
Gz3a		0	305a	303a	0	1.00E-03	
Rz3a		305a	306a	Rideal	1.00E+03		
Lz3a		306a	0	1.59E-10			
							
***Buffer						
Gbufa		0	401a	305a	0	1.00E-02				
Rbufa		401a	0	Rideal	1.00E+02					
										
***Output with current limiting									
Eouta		404a	0	401a	0	1.000E+00				
Routa		404a	405a	RIDEAL	1.000E+00					
Louta		405a	406a	2.00E-08						
Couta		406a	0	1.00E-12						
Voutmona	406a	4a	0						
Dout1a		401a	407a	Dquiet						
Vout1a		407a	406a	-8.00E-01						
Dout2a		408a	401a	Dquiet						
Vout2a		406a	408a	-8.00E-01						
	
***Voltage reference generator									
Eref1a		98a	0	99	0	1				
Eref2a		51a	0	50	0	1		
Rref1a		98a	901a	Rideal	100Meg			
Rref2a		901a	51a	Rideal	100Meg			
Eref3a		75a	0	901a	0	1		
	
***Supply current correction							
Iqa		99	50	0.0035				
Fsup1a		99	0	Voutmona	1			
*DZsup1a		0	802a	DZENER2				
*Dsup1a		99	802a	DQUIET				
Fsup2a		0	50	Voutmona	-1			
*DZsup2a		804a	0	DZENER2				
*Dsup2a		804a	50	DQUIET	

*****************************************************************
Rgcnt	4	2a	Rideal	1000
Rfcnt	2a	4a	Rideal	1000 
RScnt	1a	2b	Rideal	500				
*****************************************************************
							
.model	Rideal	res	T_ABS=-273				
.model	Rnoise	res	T_ABS=27				
.model	npn	npn	BF= 166665.666666667				
.model	dquiet	d
.model	dvnoisea	d	KF=45000				
.model	dinoise1a	d	KF=0.196				
.model	dinoise2a	d	KF=0.196					
.model	dvnoise		d	KF=45000				
.model	dinoise1	d	KF=0.196				
.model	dinoise2	d	KF=0.196
.model	dzener	d	BV=100.74508003908849
.model	dzener2	d	BV=50
			
.ends			
*$


