* ADCMP601 SPICE Macro-model        
* Description: Amplifier
* Generic Desc: Rail to Rail;, sing chann,TTL/CMOS Compa
* Developed by: AET, ATE/PSP Design Engineering
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 ( 03/2010)
* Copyright 2010, 2012 by Analog Devices
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model indicates
* your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*    
* Not Modeled:
*    
* Parameters modeled include: 
*    Model valid power supply range:   +2.5V < VCC < +5.5V
*    Model valid temperature range:     -40C < TEMP < +125C
*    Model valid input common mode:  -0.5V < VP/VN < VCC+0.5V
*
* This model was validated with HSPICE Version C-2009.03 32-BIT, and every effort
* has been made to preserve compatibility with older versions of PSPICE. Please
* provide feedback to Analog Devices if any compatibility or convergence issues 
* are discovered. The model should simulate reasonably well the following ADCMP601 
* parameters:
*
*    Power supply current versus supply voltage
*    Power supply current versus temperature
*    Power supply current versus input common mode
*    Power supply current versus output load
*    Power supply current versus hystesis control current
*    Input bias current offset (1uA nominal constant)
*    Input bias current versus supply voltage
*    Input bias current versus temperature
*    Input bias current versus common mode
*    Input bias current versus input differential
*    Input offset voltage (-1mV nominal constant)
*    Input offset voltage common mode rejection
*    Input offset voltage power supply rejection
*    DC Gain from input to output versus output load
*    Output Low/High versus supply voltage
*    Output Low/High versus temperature
*    Output Low/High versus output load
*    Hysteresis versus IHYST versus power supply
*    Hysteresis versus IHYST versus temperature
*    Hysteresis versus RHYST versus power supply
*    Hysteresis versus RHYST versus temperature
*    Hysteresis control pin impedance
*    Hysteresis control pin voltage versus power supply
*    Hysteresis control pin voltage versus temperature
*    Input Capacitance
*    Output Capacitance
*    Output rise time with 1pF/5pF output loading
*    Output fall time with 1pF/5pF output loading
*    Absolute propagation delay 
*    Propagation delay change versus input common mode
*    Propagation delay change versus input overdrive
*    Latch to input setup and hold times
*    Latch to output Low/High propagation delay
* 
*   The model may not accurately simulate other parameters including but not
*   limited to the following ADCMP601 characteristics:
* 
*    DC Gain from input to output versus temperature (not modelled)
*    Propagation delay change versus supply voltage (untested) 
*    Propagation delay change versus temperature (untested)
*    Propagation delay change versus input slewrate (untested)
*
* END Notes
*
* Node assignments
*                non-inverting input
*                | inverting input
*                | | latch/hysteresis
*                | | | positive supply
*                | | | | negative supply
*                | | | | | output pin
*                | | | | | |
*                | | | | | |
*                | | | | | |
.SUBCKT ADCMP601 3 4 5 6 2 1
c0 17 0 5e-13
c1 19 0 2e-13
c2 3 0 2e-13
c3 4 0 2e-13
dp 2 6 DESD 
e0 18 0 17 0 4 max=0.3 min=-0.3
e1 20 0 19 0 1 max=0.3 min=-0.3
g0 6 2 0 22 1
io 12 13 dc 1e-06
iq 22 0 dc 0.002422
r0 17 0 700
r1 18 19 1000
r2 3 13 100
r3 4 11 100
r4 21 0 50
rd 3 4 1e7
rp 6 2 1e5
rt 22 0 1 tc=0.0005 
t0 20 0 21 0 z0=50 td=1.370e-9
vo 11 12 dc 0.001
x1 4 2 6 ADCMP601_ESD
x2 3 2 6 ADCMP601_ESD
x3 5 2 6 ADCMP601_ESD
x4 1 2 6 ADCMP601_ESD
xb 12 13 14 15 16 2 6 ADCMP601_BIAS
xh 17 2 5 6 ADCMP601_HYST
xi 12 13 14 15 16 17 2 6 ADCMP601_INPUT
xo 1 2 21 6 ADCMP601_OUTPUT
xv 12 13 17 2 6 ADCMP601_DVOS
.ENDS

*
* Bias Current Generator
*
.SUBCKT ADCMP601_BIAS 12 13 14 15 16 2 6
d0 201 202 DSIM1
d1 201 203 DSIM1
d2 205 206 DSIM1
d3 202 204 DSIM1
d4 203 204 DSIM1
d5 207 208 DSIM1
e0 203 0 13 0 1
e1 202 0 12 0 1
e2 205 0 201 0 1
e3 208 0 204 0 1
e4 210 0 6 209 1 max=1.6 min=0.6
e5 219 0 211 207 5 max=1 min=0
g0 2 6 212 213 0.0015 max=0.0003 min=0
g1 15 0 212 213 0.001 max=0.0002 min=0
g2 16 0 214 215 0.001 max=0.0002 min=0
g3 16 0 214 216 -0.001 max=0 min=-0.0002
g4 0 14 poly(2) 219 220 217 218 0 0 0 0 0.002 max=1e-4 min=0
g5 6 2 poly(2) 219 220 217 218 0 0 0 0 0.002 max=5e-05 min=0
i0 0 201 dc 0.001
i1 204 0 dc 0.001
i5 206 0 dc 0.001
i6 0 207 dc 0.001
r0 206 218 1
r1 220 0 1
v0 209 0 dc 1.9
v1 211 0 dc 1.6
v2 217 210 dc 0.2
v3 212 207 dc 0.025
v4 213 0 dc 1.6
v5 214 207 dc 0.025
v6 215 0 dc 0.6
v7 216 0 dc 1.7
.ENDS

*
* CMRR and PSRR Offset Generator
*
.SUBCKT ADCMP601_DVOS 12 13 17 2 6
e0 302 0 13 0 1
e1 304 0 12 0 1
g0 17 0 poly(1) 303 0 0 1.71e-06 -3.3e-07 max=3e-06 min=-1e-06
g1 17 0 6 301 6.667e-07 max=2e-06 min=0
r0 302 303 1000
r1 303 304 1000
v0 301 2 dc 2.5
.ENDS

*
* ESD Diodes
*
.SUBCKT ADCMP601_ESD 601 602 606
d0 601 606 DESD
d1 602 601 DESD
.ENDS

*
* Hysteresis and Latch Function
*
.SUBCKT ADCMP601_HYST 17 2 5 6
c0 410 409 3.4e-11
c1 401 0 1e-12
d0 0 404 DSIM1
d1 401 5 DSIM3
e0 402 405 405 403 1
e1 412 0 17 0 20 max=0.3 min=-0.3
f1 6 0 v1 7 max=0.0007 min=0
f2 0 2 v2 8 max=0.0008 min=0
g0 408 17 410 409 0.01 max=0.0003 min=-0.0003
g1 411 0 414 0 0.01 max=3e-4 min=0
h0 413 0 v0 1000 max=0.030 min=0
i2 403 0 dc 0.00125
i3 5 0 dc 1.25e-06
i5 0 405 dc 1e-06
q0 410 0 411 0 NPN_IN1
q1 409 412 411 0 NPN_IN1
r0 403 404 1000
r1 402 401 7500
r3 408 410 100
r4 408 409 100
r5 414 0 50
t0 413 0 414 0 z0=50 td=7e-10
v0 406 405 0
v1 407 406 0
v2 0 407 0
v4 408 0 dc 1
.ENDS

*
* Input Stage
*
.SUBCKT ADCMP601_INPUT 12 13 14 15 16 17 2 6
e0 101 0 0 2 -1
e1 102 0 0 6 -1
g0 102 17 poly(3) 108 107 106 105 104 103 0 0.01 0.01 0.01
q0 103 13 14 0 PNP_IN1
q1 104 12 14 0 PNP_IN1
q2 105 13 15 0 NPN_IN1
q3 106 12 15 0 NPN_IN1
q4 107 13 16 0 NPN_IN2
q5 108 12 16 0 NPN_IN2
r0 101 103 200
r1 101 104 200
r2 102 105 90
r3 102 106 90
r4 102 107 80
r5 102 108 80
.ENDS

*
* Output Stage
*
.SUBCKT ADCMP601_OUTPUT 1 2 21 6
c0 1 507 8.8e-13
c2 505 504 6e-14
c3 503 504 6e-14
d0 504 503 DSIM2
d1 505 504 DSIM2
d2 506 505 DSIM1
d3 503 501 DSIM1
e0 506 2 508 0 1
e1 6 501 502 0 1
e2 507 0 6 2 0.5
g0 0 505 21 0 -0.0042667 max=0.00032 min=-0.00032
g1 503 0 21 0 0.0042667 max=0.00032 min=-0.00032
g2 6 0 21 0 -0.0085333 max=0.00064 min=0
g3 0 2 21 0 0.0085333 max=0.00064 min=0
i4 0 508 dc 0.001
i5 0 502 dc 0.001
q0 504 505 2 2 NPN_OUT
q1 504 503 6 2 PNP_OUT
r0 1 507 50000
r1 504 1 10
r3 508 0 850 tc=-0.00302
r4 502 0 850 tc=-0.00302
.ENDS

*
* Models Used
*
.model DESD d cjo=5e-14 is=1e-17 rs=0.5 eg=1.12
.model DSIM1 d is=1e-12
.model DSIM2 d is=1e-14 eg=0.950
.model DSIM3 d is=1e-15
.model NPN_IN1 npn bf=140 cjc=1.20e-14 cje=2.78e-14 is=9.1e-18 rb=60 re=400 tf=4.7e-12
.model NPN_IN2 npn bf=1e6 cjc=1.20e-14 cje=2.78e-14 is=9.1e-18 rb=60 re=400 tf=4.7e-12
.model PNP_IN1 pnp bf=25 cjc=5.50e-14 cje=1.05e-13 is=3.5e-17 rb=75 re=600 tf=1.2e-12
.model NPN_OUT npn bf=75 cjc=1.60e-13 cjs=6.5e-14 is=1.0e-16 vaf=50
.model PNP_OUT pnp bf=60 cjc=1.50e-13 cjs=6.5e-14 is=6.4e-17 vaf=30





