* ADG1236 SPICE Macro-model
* Generic Desc: Low Capacitance, Low Charge Injection,
* Developed by: mbarrien / ANALOG
* Revision History: ±15 V/12 V iCMOS, Dual SPDT Switch (9/2018)
* Copyright 2018 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* Begin Notes:
* The model will work on Vdd/Vss of 12V single supply and +/-15V dual supply.
* The model provides parametric specifications at +/-15V only and is not variable with Vdd and Vss changes. Please see datasheet page 3.
*
* Not Modeled:
*
* Please see Connections Section below.
*
* Parameters modeled include:
* On Resistance
*	Ton and Toff
*	Break-Before-Make
*	Off Isolation
*	Crosstalk
*	Supply Currents: Iss/Idd
*  Bandwidth
*  Charge Injection
* Connections
*      1  = IN1
*      2  = S1
*      3  = D1
*      4  = S2
*      5  = VSS
*      6  = GND
*      7  = IN2
*      8  = S3
*      9  = D2
*      10  = S4
*      11  = VDD
*
.SUBCKT ADG1236 1 2 3 4 5 6 7 8 9 10 11

.MODEL VON VSWITCH(Von=5 Voff=0.8 Ron=0.001 Roff=1000000000000)
.MODEL VEN VSWITCH(Von=5 Voff=0.8 Ron=117000 Roff=185000)
.MODEL VNE VSWITCH(Von=5 Voff=0.8 Ron=123000 Roff=170000)
.MODEL VRESET VSWITCH(Von=5 Voff=0.8 Ron=2700000 Roff=1000)
.MODEL DCLAMP D(IS=1E-15 IBV=1E-13)


* CROSSTALK
C12X 2 4 0.1E-012
C13X 2 8 0.1E-012
C14X 2 10 0.1E-012
C23X 4 8 0.1E-012
C24X 4 10 0.1E-012
C34X 8 10 0.1E-012

* IDD/ISS
I1 11 6 0.001E-006
I2 5 6 0.001E-006

* Configuration: SPDT 4:2

* ESD PROTECTION DIODES DRAIN
D11 5 3 DCLAMP
D12 3 11 DCLAMP
C15 3 6 0.1E-015

** SWITCH 1 D1 **
*
* ESD PROTECTION DIODES SOURCE
D113 5 2 DCLAMP
D114 2 11 DCLAMP
*
* OFF ISOLATION
C111 2 3 0.1E-012
*
* CHARGE INJECTION
C112 3 11N 0.3E-012
C113 2 11N 0.3E-012
*
* CD/CS OFF AND BANDWIDTH
C114 2 6 0.1E-015
*
* ON RESISTANCE
Ech111 111a 6 VALUE = { IF ((ABS(V(2)))>(ABS(V(11g))),V(2),V(3)) }
R111 111a 6 1G
R112 a11 11h 0.001
Ech112 111b 6 VALUE = { IF (V(111a)<-9,5,0) }
S111 11sa1 11sb1 111b 6 VON
Ech113 11sb1 6 VALUE = { IF (V(111a)<-9,3.5*(V(111a)--9)+161,0) }
Ech114 111c 6 VALUE = { IF ((V(111a)>=-9) & (V(111a)<=6),5,0) }
S112 11sa1 11sb2 111c 6 VON
Ech115 11sb2 6 VALUE = { IF ((V(111a)>=-9) & (V(111a)<=6),((161-118)/((-9--1.54310487205364)*(-9--1.54310487205364)))*(V(111a)--1.54310487205364)*(V(111a)--1.54310487205364) + 118,0) }
Ech116 111d 6 VALUE = { IF (V(111a)>6,5,0) }
S113 11sa1 11sb3 111d 6 VON
Ech117 11sb3 6 VALUE = { IF (V(111a)>6,-6.88888888888889*(V(111a)-6)+162,0) }
RIN113	11sa1 6	1G
EOUT11 a11 11e	POLY(2) (11sa1,6) (11f,6) 0 0 0 0 0.999/1000
FCOPY11	6 11f VSENSE11 1
RSENSOR11 11f 6	1K
VSENSE11 11e 11g	0
*
* TON/ TOFF/ BBM
S114 2 11g 11n 6 VON
S115 11i 11j 11i 6 VEN
Ech118 11i 6 VALUE = { IF(V(1)>=2, 5 , 0.8 ) }
eV11 11n 6 11j 6 1
C116 11j 6 1e-012
*
* VOLTAGE SUPPLY REQUIREMENT
S116 11h 3 11k 6 VON
S117 11l 11k 11l 6 VON
Ech119 11l 6 VALUE = { IF((V(5)<=-0.5 & V(5)>=-15) & (V(11)<=15 & V(11)>=0.5), 5 , 0.01 ) }
S118 11m 11k 11m 6 VON
Ech1110 11m 6 VALUE = { IF((V(5)>=-0.5 & (V(11)<=15 & V(11)>=0.5)), 5 , 0.01 ) }


** SWITCH 2 D1 **
*
* ESD PROTECTION DIODES SOURCE
D213 5 4 DCLAMP
D214 4 11 DCLAMP
*
* OFF ISOLATION
C211 4 3 0.1E-012
*
* CHARGE INJECTION
C212 3 21N 0.3E-012
C213 4 21N 0.3E-012
*
* CD/CS OFF AND BANDWIDTH
C214 4 6 0.1E-015
*
* ON RESISTANCE
Ech211 211a 6 VALUE = { IF ((ABS(V(4)))>(ABS(V(21g))),V(4),V(3)) }
R211 211a 6 1G
R212 a21 11h 0.001
Ech212 211b 6 VALUE = { IF (V(211a)<-9,5,0) }
S211 21sa1 21sb1 211b 6 VON
Ech213 21sb1 6 VALUE = { IF (V(211a)<-9,3.5*(V(211a)--9)+161,0) }
Ech214 211c 6 VALUE = { IF ((V(211a)>=-9) & (V(211a)<=6),5,0) }
S212 21sa1 21sb2 211c 6 VON
Ech215 21sb2 6 VALUE = { IF ((V(211a)>=-9) & (V(211a)<=6),((161-118)/((-9--1.54310487205364)*(-9--1.54310487205364)))*(V(211a)--1.54310487205364)*(V(211a)--1.54310487205364) + 118,0) }
Ech216 211d 6 VALUE = { IF (V(211a)>6,5,0) }
S213 21sa1 21sb3 211d 6 VON
Ech217 21sb3 6 VALUE = { IF (V(211a)>6,-6.88888888888889*(V(211a)-6)+162,0) }
RIN213	21sa1 6	1G
EOUT21 a21 21e	POLY(2) (21sa1,6) (21f,6) 0 0 0 0 0.999/1000
FCOPY21	6 21f VSENSE21 1
RSENSOR21 21f 6	1K
VSENSE21 21e 21g	0
*
* TON/ TOFF/ BBM
S214 4 21g 21n 6 VON
S215 21i 21j 21i 6 VNE
Ech218 21i 6 VALUE = { IF(V(1)<2, 5 , 0.8 ) }
eV21 21n 6 21j 6 1
C216 21j 6 1e-012
*

* ESD PROTECTION DIODES DRAIN
D21 5 9 DCLAMP
D22 9 11 DCLAMP
C25 9 6 0.1E-015

** SWITCH 3 D2 **
*
* ESD PROTECTION DIODES SOURCE
D123 5 8 DCLAMP
D124 8 11 DCLAMP
*
* OFF ISOLATION
C121 8 9 0.1E-012
*
* CHARGE INJECTION
C122 9 12N 0.3E-012
C123 8 12N 0.3E-012
*
* CD/CS OFF AND BANDWIDTH
C124 8 6 0.1E-015
*
* ON RESISTANCE
Ech121 121a 6 VALUE = { IF ((ABS(V(8)))>(ABS(V(12g))),V(8),V(9)) }
R121 121a 6 1G
R122 a12 12h 0.001
Ech122 121b 6 VALUE = { IF (V(121a)<-9,5,0) }
S121 12sa1 12sb1 121b 6 VON
Ech123 12sb1 6 VALUE = { IF (V(121a)<-9,3.5*(V(121a)--9)+161,0) }
Ech124 121c 6 VALUE = { IF ((V(121a)>=-9) & (V(121a)<=6),5,0) }
S122 12sa1 12sb2 121c 6 VON
Ech125 12sb2 6 VALUE = { IF ((V(121a)>=-9) & (V(121a)<=6),((161-118)/((-9--1.54310487205364)*(-9--1.54310487205364)))*(V(121a)--1.54310487205364)*(V(121a)--1.54310487205364) + 118,0) }
Ech126 121d 6 VALUE = { IF (V(121a)>6,5,0) }
S123 12sa1 12sb3 121d 6 VON
Ech127 12sb3 6 VALUE = { IF (V(121a)>6,-6.88888888888889*(V(121a)-6)+162,0) }
RIN123	12sa1 6	1G
EOUT12 a12 12e	POLY(2) (12sa1,6) (12f,6) 0 0 0 0 0.999/1000
FCOPY12	6 12f VSENSE12 1
RSENSOR12 12f 6	1K
VSENSE12 12e 12g	0
*
* TON/ TOFF/ BBM
S124 8 12g 12n 6 VON
S125 12i 12j 12i 6 VEN
Ech128 12i 6 VALUE = { IF(V(7)>=2, 5 , 0.8 ) }
eV12 12n 6 12j 6 1
C126 12j 6 1e-012
*
* VOLTAGE SUPPLY REQUIREMENT
S126 12h 9 12k 6 VON
S127 12l 12k 12l 6 VON
Ech129 12l 6 VALUE = { IF((V(5)<=-0.5 & V(5)>=-15) & (V(11)<=15 & V(11)>=0.5), 5 , 0.01 ) }
S128 12m 12k 12m 6 VON
Ech1210 12m 6 VALUE = { IF((V(5)>=-0.5 & (V(11)<=15 & V(11)>=0.5)), 5 , 0.01 ) }


** SWITCH 4 D2 **
*
* ESD PROTECTION DIODES SOURCE
D223 5 10 DCLAMP
D224 10 11 DCLAMP
*
* OFF ISOLATION
C221 10 9 0.1E-012
*
* CHARGE INJECTION
C222 9 22N 0.3E-012
C223 10 22N 0.3E-012
*
* CD/CS OFF AND BANDWIDTH
C224 10 6 0.1E-015
*
* ON RESISTANCE
Ech221 221a 6 VALUE = { IF ((ABS(V(10)))>(ABS(V(22g))),V(10),V(9)) }
R221 221a 6 1G
R222 a22 12h 0.001
Ech222 221b 6 VALUE = { IF (V(221a)<-9,5,0) }
S221 22sa1 22sb1 221b 6 VON
Ech223 22sb1 6 VALUE = { IF (V(221a)<-9,3.5*(V(221a)--9)+161,0) }
Ech224 221c 6 VALUE = { IF ((V(221a)>=-9) & (V(221a)<=6),5,0) }
S222 22sa1 22sb2 221c 6 VON
Ech225 22sb2 6 VALUE = { IF ((V(221a)>=-9) & (V(221a)<=6),((161-118)/((-9--1.54310487205364)*(-9--1.54310487205364)))*(V(221a)--1.54310487205364)*(V(221a)--1.54310487205364) + 118,0) }
Ech226 221d 6 VALUE = { IF (V(221a)>6,5,0) }
S223 22sa1 22sb3 221d 6 VON
Ech227 22sb3 6 VALUE = { IF (V(221a)>6,-6.88888888888889*(V(221a)-6)+162,0) }
RIN223	22sa1 6	1G
EOUT22 a22 22e	POLY(2) (22sa1,6) (22f,6) 0 0 0 0 0.999/1000
FCOPY22	6 22f VSENSE22 1
RSENSOR22 22f 6	1K
VSENSE22 22e 22g	0
*
* TON/ TOFF/ BBM
S224 10 22g 22n 6 VON
S225 22i 22j 22i 6 VNE
Ech228 22i 6 VALUE = { IF(V(7)<2, 5 , 0.8 ) }
eV22 22n 6 22j 6 1
C226 22j 6 1e-012
*
.ENDS ADG1236
